US08314091B2
B: N-tert-Butyl-3-(piperazin-1-ylmethyl)benzamide
N-tert-Butyl-3-(chloromethyl)benzamide (14.71 g, 65.2 mmol), tert-butyl piperazine-1-carboxylate (12.14 g, 65.2 mmol), sodium iodide (1.95 g, 13.0 mmol), triethylamine (27.3 mL, 195.5 mmol) and tetrahydrofuran (125 mL) were stirred together at room temperature for 18 hours. The reaction was then concentrated under vacuum and the residue dissolved in ethyl acetate. The organic mixture was washed consecutively with saturated aqueous sodium hydrogen carbonate solution, water (×2) and brine then concentrated under vacuum. The residue was dissolved in dichloromethane (100 mL), treated with trifluoroacetic acid (25.0 mL, 326.0 mmol) and stirred at 60° C. for 2.5 hours. The reaction was concentrated under vacuum and purified by strong cation exchange (SCX) chromatography, eluting macroporous polystyrene sulfonic acid with 2M ammonia in methanol. The resulting solution was concentrated under vacuum to give the title compound (12.8 g) as a white solid.

reactant | N-tert-Butyl-3-(chloromethyl)benzamide | 65.2 mmol, 14.71 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CCl)=O | C12H16ClNO
reactant | tert-butyl piperazine-1-carboxylate | 65.2 mmol, 12.14 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium iodide | 13.0 mmol, 1.95 g | [I-].[Na+]
reactant | triethylamine | 195.5 mmol, 27.3 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 326.0 mmol, 25.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | N-tert-Butyl-3-(piperazin-1-ylmethyl)benzamide | 12.8 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
